US20010027196A1
2-Amino-4-(2-methoxy-phenyl)-6-(2-pyridin-2-yl-ethoxy)-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-(2-methoxy-phenyl)-pyrimidine-5-carbonitrile, 2-(2-hydroxyethyl)pyridine and DBU in DME. ES-MS m/e (%): 348 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-(2-methoxy-phenyl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)C1=C(C=CC=C1)OC | C13H12N4O2S
reactant | 2-(2-hydroxyethyl)pyridine | OCCC1=NC=CC=C1 | C7H9NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(2-methoxy-phenyl)-6-(2-pyridin-2-yl-ethoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=C(C=CC=C1)OC)C#N)OCCC1=NC=CC=C1 | C19H17N5O2
